US08242104B2
9-Bromo-2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene (207 mg, 0.5 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (232 mg, 0.75 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane (10 mol %), and potassium carbonate (138 mg, 1.0 mmol) were charged to a reaction vial, the atmosphere evacuated and back-filled with nitrogen. DMF (1 mL) was added, degassing repeated, and the mixture heated at 80° C. for 18 h. The cooled reaction mixture was diluted with ethyl acetate and washed with water then dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 20 to 60% ethyl acetate in cyclohexane) to give 4-{2-[2-(2,2,2-Trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulen-9-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert butyl ester as a white crystalline solid (232 mg, 90%). LCMS: RT=4.87 min, M+H+=517.

reactant | 9-Bromo-2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene | 0.5 mmol, 207 mg | BrC=1C=CC2=C(N3N=C(C=C3CCO2)C=2N(N=CN2)CC(F)(F)F)C1 | C15H11BrF3N5O
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.75 mmol, 232 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 4-{2-[2-(2,2,2-Trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulen-9-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert butyl ester | 232 mg, 90% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C=CC2=C(N3N=C(C=C3CCO2)C=2N(N=CN2)CC(F)(F)F)C1 | C25H27F3N6O3
